US07511033B2
3′-(4-Oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid tert-butylamide
The title compound was prepared from 4-(3-bromo-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one (Example B.2) (200 mg, 0.50 mmol) and commercially available 4-tert-butylsulfamoyl-benzeneboronic acid [CAS-no. 208516-15-8] (161 mg, 0.60 mmol) according to the general procedure II. Obtained as a white solid (125 mg, 46%). MS (ISP) 515.9 [(M+H)+]; mp 229-233° C.

reactant | 4-(3-bromo-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.50 mmol, 200 mg | BrC=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C16H10BrF3N2O
reactant | 4-tert-butylsulfamoyl-benzeneboronic acid | 0.60 mmol, 161 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)B(O)O | C10H16BNO4S
product | 3′-(4-Oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-biphenyl-4-sulfonic acid tert-butylamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=CC(=C2)C(F)(F)F)=O | C26H24F3N3O3S
